US08183271B2
Methyl 4-[(4E)-3-[4-(1H-tetrazol-5-yl)benzyl]-5-(2-{[4′-(trifluoromethyl)biphenyl-4-yl]methoxy}-phenyl)pent-4-en-1-yl]benzoate
A solution of 295 mg (0.53 mmol) of methyl 4-[(4E)-3-(4-cyanobenzyl)-5-(2-{[4′-(trifluoromethyl)biphenyl-4-yl]methoxy}phenyl)pent-4-en-1-yl]benzoate in 20 ml of toluene is mixed with 1.33 ml (9.99 mmol) of trimethylsilyl azide and 249 mg (1 mmol) of di-n-butyltin oxide and heated at 80° C. for 12 hours. After cooling to room temperature, the mixture is washed with saturated sodium bicarbonate solution. The organic phase is separated off, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the filtrate is concentrated to dryness. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: dichloromethane→dichloromethane/methanol 10:1). 387 mg (0.56 mmol, 64% of theory) of a white foam are obtained.

reactant | methyl 4-[(4E)-3-(4-cyanobenzyl)-5-(2-{[4′-(trifluoromethyl)biphenyl-4-yl]methoxy}phenyl)pent-4-en-1-yl]benzoate | 0.53 mmol, 295 mg | C(#N)C1=CC=C(CC(CCC2=CC=C(C(=O)OC)C=C2)\C=C\C2=C(C=CC=C2)OCC2=CC=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C41H34F3NO3
reactant | trimethylsilyl azide | 9.99 mmol, 1.33 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 1 mmol, 249 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-[(4E)-3-[4-(1H-tetrazol-5-yl)benzyl]-5-(2-{[4′-(trifluoromethyl)biphenyl-4-yl]methoxy}-phenyl)pent-4-en-1-yl]benzoate | N1N=NN=C1C1=CC=C(CC(CCC2=CC=C(C(=O)OC)C=C2)\C=C\C2=C(C=CC=C2)OCC2=CC=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C41H35F3N4O3
